US06982348B2
To a solution of ethyl (E)-5-(2-methylphenyl)-3-oxo-4-pentenoate (37.24 g, 160.3 mmol) in ethanol (100 ml) was added sodium borohydride (3.03 g, 80.2 mmol) by small portions under ice-cooling, and the mixture was stirred as it was for 10 min. The reaction solution was diluted with water, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give a crude product of ethyl (E)-3-hydroxy-5-(2-methylphenyl)penta-4-enoate as a yellow liquid.

reactant | ethyl (E)-5-(2-methylphenyl)-3-oxo-4-pentenoate | 160.3 mmol, 37.24 g | CC1=C(C=CC=C1)/C=C/C(CC(=O)OCC)=O | C14H16O3
reactant | sodium borohydride | 80.2 mmol, 3.03 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl (E)-3-hydroxy-5-(2-methylphenyl)penta-4-enoate | OC(CC(=O)OCC)\C=C\C1=C(C=CC=C1)C | C14H18O3
